US05869665
2-Amino-3-(3-isopropoxy-phenyl)-3H-quinazolin-4-one
A solution of 2-Hydrazino-3-(3-isopropoxy-phenyl)-3H-quinazolin-4-one (2.5g, 8.0 mmol) in 100 mL methanol-THF (1:1) was treated with Raney Ni (2.0), and resulting suspension was subjected to atmosphere of hydrogen at 52.0 psi for 30 hours with agitation at temperature of 50° C. An additional 1.0 g of Raney Ni was added and reaction was continued for additional 40 hours at 50° C. The mixture was then filtered through celite, and the solvent was removed in vacuo to give the title compound as a reddish yellow solid. This crude product was then titurated with ethyl acetate and hexane to isolate 1.85 g (78%) product as a light yellow solid, mp 130°-133° C.

reactant | 2-Hydrazino-3-(3-isopropoxy-phenyl)-3H-quinazolin-4-one | 8.0 mmol, 2.5g | N(N)C1=NC2=CC=CC=C2C(N1C1=CC(=CC=C1)OC(C)C)=O | C17H18N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol THF | 100 mL | CO.C1CCOC1
catalyst | Ni | [Ni] | Ni
product | 2-Amino-3-(3-isopropoxy-phenyl)-3H-quinazolin-4-one | NC1=NC2=CC=CC=C2C(N1C1=CC(=CC=C1)OC(C)C)=O | C17H17N3O2
